Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Aricept / Bees / codeine / rivastigamine / Cipro / Exelon
 
Attending: ___.
 
Chief Complaint:
Lethargy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year old woman a history of Alzheimers and 
prior concern for NPH based on ___ head CT who presented to 
the ED s/p fall with lethargy. Per report, the patient suffered 
a fall on ___ but HCP (son) refused work up at that time. ___ 
NP at ___ noted pt to be more lethargic 
over the past few days. She was found on the ground sleeping 
today. ___ concentration and gait have been worsening. Per NP, 
no F/C, CP, dyspnea, abdominal pain, N/V, diarrhea, or dysuria. 
In the past the patient's son has not wanted further work up for 
___ symptoms. The patient was sent to the ED where staff members 
spoke with HCP who agreed with work up. 
 
Per referral note, pt has had mental status changes, states that 
___ head hurts, and c/o L back/hip pain. The patient has end 
stage dementia, is non verbal but but ambulatory. She is 
dependent for all ___ ADLs. Per NP referral note, pt is DNR/DNI. 
 

In the ED, initial vitals were: T 98.1 P 76 BP 120/83 R 20 O2Sat 
96% RA.  

- Labs were significant for normal CBC, normal chem 10, lactate 
of 1.4, UA with lrg leuks, many bacteria, neg nitrites.  
- CT head revealed persistent dilation of ventricles, concerning 
for NPH. CXR showed Mild increase in interstitial markings 
bilaterally, similar to the prior study, may be due to chronic 
lung disease or mild interstitial edema.  
- The patient was given ceftriaxone and admitted to the floor.  

Upon arrival to the floor, pt is speaking non-sensical words. 
Does not answer questions. His son was called for further 
information but was unreachable. Unable to elicit any tenderness 
to palpation of abdomen, hips, or extremities. 
 
Past Medical History:
1. Docusate Sodium 100 mg PO DAILY  
2. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY  
3. QUEtiapine Fumarate 12.5 mg PO TID  
4. Timolol Maleate 0.5% 1 DROP BOTH EYES BID  
5. Acetaminophen 1000 mg PO Q8H:PRN pain  
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation  
7. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600-800 
mg-IU oral DAILY  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM:
Vitals: T 97.3 BP 142/69 P 61 R 18 O2 Sat 99% RA  
General: Alert, NAD, speaking non-sensical words  
HEENT: Sclera anicteric, MMM, EOMI  
Neck: Supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally anteriorly  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused  
Neuro: MAE 

DISCHARGE EXAM:
 
Pertinent Results:
LAB RESULTS:

___ 06:16AM BLOOD WBC-9.1 RBC-3.91* Hgb-12.9 Hct-35.7* 
MCV-91 MCH-33.1* MCHC-36.2* RDW-12.6 Plt ___
___ 05:00PM BLOOD Neuts-67.6 ___ Monos-7.2 Eos-3.1 
Baso-0.4
___ 06:16AM BLOOD Glucose-101* UreaN-11 Creat-0.6 Na-136 
K-4.1 Cl-104 HCO3-24 AnGap-12
___ 06:16AM BLOOD Calcium-10.2 Phos-2.9 Mg-2.1
___ 06:45AM BLOOD VitB12-___ Folate-12.9
___ 06:45AM BLOOD TSH-1.3
___ 06:52AM BLOOD HIV Ab-NEGATIVE
___ 05:19PM BLOOD Lactate-1.4

___ 04:45PM CEREBROSPINAL FLUID (CSF) WBC-3 RBC-165* 
Polys-5 ___ ___ 04:45PM CEREBROSPINAL FLUID (CSF) WBC-6 RBC-775* 
Polys-5 ___ ___ 04:45PM CEREBROSPINAL FLUID (CSF) TotProt-98* 
Glucose-52

MICROBIOLOGY:
Urine Culture ___: >100,000 colonies viridans group strep
 
Urine Culture ___: MIXED BACTERIAL FLORA ( >= 3 COLONY 
TYPES), CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION.

Urine Culture ___:  GRAM POSITIVE COCCUS(COCCI).  ~1000/ML.

IMAGING:
CXR (frontal) ___:
Mild increase in interstitial markings bilaterally, similar to 
the prior study, may be due to chronic lung disease or mild 
interstitial edema. 

CT Head w/o contrast ___: 
1. Extremely motion limited study, within these limitations, no 
acute process identified. 
2. Persistent dilation of the ventricles out of proportion to 
the sulci, again raises possibility of normal pressure 
hydrocephalus. 
 
CT Head w/o contrast: ___: 
1.   No significant change in dilated lateral and third 
ventricles out of proportion to sulci raise the possibility of 
parenchymal volume loss with or without normal pressure 
hydrocephalus.  Clinical correlation is recommended.  Asymmetric 
enlargement of the right temporal is more in favor of medial 
temporal atrophy. 
2. No intracranial hemorrhage.

MR ___ contrast: ___:
1. There is ventriculomegaly, which may be disproportionate to 
the degree of superimposed global cerebral volume loss.  In 
addition, there is 
periventricular FLAIR hyperintensity, which may represent 
transependymal CSF flow and underlying changes due to small 
vessel disease.  Clinical correlation with normal-pressure 
hydrocephalus is recommended. 
2. The pattern of global cerebral volume loss is nonspecific. 
3. No acute intracranial hemorrhage or infarct. 
4. Likely subarachnoid cyst in the right posterior fossa.  
Otherwise no other intracranial mass.

EEG ___:
This is an abnormal recording due to the presence of generalized 

and multifocal interictal discharges that were seen without 
rhythmicity to suggest ongoing or potential seizures. Rather, 
the presence of a slow and disorganized background with 
generalized suppressive bursts is consistent with a moderate 
encephalopathy with multifocal cortical irritability. 

EEG ___:
This continuous EEG recording is notable for isolated multifocal 

and generalized discharges superimposed upon a slow and 
disorganized 
background. This pattern is consistent with multiple areas of 
cortical 
irritability along with a mild to moderate encephalopathy of 
toxic, metabolic, or anoxic etiology. 

EEG ___:
This continuous tracing captured one clinical event captured 
during physical examination; no EEG changes separate from 
baseline were seen. Multifocal areas of potential 
epileptogenesis were seen involving the right hemisphere, as 
were generalized discharges. No ongoing seizures were seen, and 
a poorly organized background is consistent with a mild 
encephalopathy or with widespread regions of subcortical 
dysfunction. These findings were communicated to the treating 
team intermittently during this recording period to assist with 
medical decision-making. 

Left Shoulder Xray ___:
Glenohumeral joint space and alignment appear normal.  No acute 
fracture is seen.  Soft tissues appear normal.  No evidence of 
calcific tendinitis. The acromioclavicular joint demonstrates 
mild degenerative change. 

 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with a history of advanced 
Alzheimer's Dementia and carotid artery occlusion (unknown side) 
who initially presented to ___ on ___ with two days of 
lethargy and a change in mental status. 

___ hospital course by problem is as follows:

#Acute lethargy/inability to ambulate:  .
Mental status waxing and waning, consistent with acute on 
chronic hypoactive delirium exacerbated by infection. CT head 
and MRI ___ with no evidence of bleed, but incidentally with 
persistent ventriculomegaly suspicious for NPH vs. ex vacuo 
dilatation. She was treated with 10 days of ceftriaxone for 
suspected UTI. Neurology was consulted for persistent altered 
mental status,  worsened from baseline over the past ___ weeks, 
not improved despite antibiotic treatment. She was transferred 
to the Neurology service for further workup. TSH, B12, Folate, 
wnl. HIV Ab, RPR non-reactive. EEG was consistent with 
encephalopathy, and since the patient did not have a clinical 
picture consistent with seizures, she was not discharged on 
anti-epileptic medication. LP was performed, which showed 
opening pressure of 14.5, which was not felt to be consistent 
with a diagnosis of NPH since the pressure would more likely be 
high-normal or slighly above normal. Thus, the patient was 
definitively diagnosed with Alzheimer's dementia. ___ prolonged 
lethargy is a prolonged recovery from ___ UTI, and she may never 
return to ___ prior baseline functional status.

# Dementia/Alzheimers: Pt has history of aggressive and agitated 
behavior, has been on various levels of Seroquel in the past for 
agitation.  Most recently 12.5mg TID. This was discontinued in 
the hospital given AMS. This should be restarted as an 
outpatient as needed, if agitation should recur.

# CXR: RLL atelectasis on ___ CXR, per report, finding "most 
likely represents atelectasis, though in the appropriate 
clinical setting aspiration would have to be considered." Speech 
and swallow saw no evidence of aspiration/penetration at 
bedside. No coughing/choking or throat clearing. Afebrile, no O2 
requirement. Switched to soft solid/thin liquid diet. Pneumonia 
treatment was not pursued given little clinical concern.

# UTI: Initial UA concerning for UTI, although culture grew only 
genital flora. Patient afebrile and without elevated WBC. She 
received ceftriaxone from ___ to ___.

# Left shoulder pain on passive movement: Xrays negative for 
fracture. Pain spontaneously resolved during admission.

# CODE STATUS: DNR/DNI per ED referral  
# CONTACT: ___ (son, HCP): cell ___, home 
___.  ___ (sister): ___  

TRANSITIONAL ISSUES:
- if patient is agitated, restart seroquel

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO DAILY 
2. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY 
3. QUEtiapine Fumarate 12.5 mg PO TID 
4. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
5. Acetaminophen 1000 mg PO Q8H:PRN pain 
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
7. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600-800  
mg-IU oral DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Docusate Sodium 100 mg PO DAILY 
3. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
4. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
5. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600-800  
mg-IU oral DAILY 
6. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
- Alzheimer's dementia 
- Delirium and lethargy due to acute UTI 
- Urinary tract infection 
 
Secondary: 
- Carotid artery stenosis NOS 
- Vertebral compression Fractures 
- Glaucoma 
- Vaginal Prolapse 

 
Discharge Condition:
Somnolent, minimally responsive. Withdraws and says 'ouch' to 
pain. 

Mental Status: Confused - always.
Level of Consciousness: Lethargic and not arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure participating in your care during your recent 
stay at ___. You were hospitalized for lethargy after a fall. 
CT and MRI scans of your ___ were taken to look at the 
structure of your ___ and showed ___ atrophy with enlarged 
ventricles but no acute abnormalities. EEG 
(electroencephalogram) testing was performed to look for 
evidence of seizures and showed diffuse encephalopathy; your 
clinical picture is not consistent with seizures, and you will 
not be on anti-seizure medication. You had a lumbar puncture to 
evaluate for normal pressure hydrocephalus, and the procedure 
was not consistent with that diagnosis. Your final diagnosis is 
Alzheimer's Disease, and your increased lethargy is due to UTI, 
which has been treated with antibiotics. It will take time to 
recover your mental status from this infection, and you may only 
experience a partial recovery.

You were also evaluated by physical therapy who felt that it 
would be best if you were to go to rehabilitation to help build 
up your strength again. 

Once again, thank you for the opportunity to participate in your 
care. We wish you the best!

Your ___ Team
 
Followup Instructions:
___